US04000275
6-(Carbomethoxyethyl)-3-methyl-8,9-dichlorobenzimidazo-[2,1-b]quinazolin-12(6H)one is prepared with 3-methyl-8,9-dichlorobenzimidazo[2,1-b]quinazolin-12(6H)one and methyl 3-chloropropionate.

reactant | 3-methyl-8,9-dichlorobenzimidazo[2,1-b]quinazolin-12(6H)one | CC1=CC=C2C(N3C(=NC2=C1)NC1=C3C=C(C(=C1)Cl)Cl)=O | C15H9Cl2N3O
reactant | methyl 3-chloropropionate | ClCCC(=O)OC | C4H7ClO2
product | 6-(Carbomethoxyethyl)-3-methyl-8,9-dichlorobenzimidazo-[2,1-b]quinazolin-12(6H)one | C(=O)(OC)CCN1C2=C(C=C(C(=C2)Cl)Cl)N2C1=NC1=CC(=CC=C1C2=O)C | C19H15Cl2N3O3
